US07183411B2
(1-Chloro-isoquinolin-5-yl)-carbamic acid phenyl ester (150 mgs, 0.5 mmol), and 4-trifluoromethyl-benzylamine (88 mgs, 0.5 mmol) were combined and stirred overnight in DMSO (4 mL) at ambient temperature. The product was purified by directly injecting the crude reaction onto a reverse phase prep-HPLC (90–10% water:acetonitrile gradient). The appropriate fractions were lyophilized to yield 1-(1-Chloro-isoquinolin-5-yl)-3-(4-trifluoromethyl-benzyl)-urea (118 mgs, 61%) MS (MH+) 379.9; 1H NMR (DMSO-d6) δ 4.47 (d, 2H, J=5.8 Hz), 7.21 (m, 1H), 7.56 (d, 2H, J=8.1 Hz), 7.71–7.76 (m, 3H), 7.93 (d, 1H, J=8.5), 8.01 (d, 1H, J=6.0 Hz), 8.34–8.36 (m, 2H), 8.95 (s, 1H). HPLC Rt=4.57 min (90–10% water:acetonitrile gradient, 100% pure).

reactant | (1-Chloro-isoquinolin-5-yl)-carbamic acid phenyl ester | 0.5 mmol, 150 mgs | C1(=CC=CC=C1)OC(NC1=C2C=CN=C(C2=CC=C1)Cl)=O | C16H11ClN2O2
reactant | 4-trifluoromethyl-benzylamine | 0.5 mmol, 88 mgs | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | 1-(1-Chloro-isoquinolin-5-yl)-3-(4-trifluoromethyl-benzyl)-urea | 118 mgs, 61% | ClC1=NC=CC2=C(C=CC=C12)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F | C18H13ClF3N3O
